US07279482B2
6-(3-chlorobenzylamino)purine
3 mmol of 6-chloropurine were dissolved in 15 ml of butanol. Subsequently, 4 mmol of 3-chlorobenzylamine and 5 mmol triethylamine were added and the mixture was heated at 90° C. for 4 hours. After cooling, the precipitated product was filtered off, washed with cold water and n-butanol and crystallised from ethanol or dimethylformamide. M.p.=252° C., TLC (CHCl3:MeOH:conc. NH4OH (8:2:0.2, v/v/v)): single spot; HPLC: purity>98%. Yield 95%.

reactant | 6-chloropurine | 3 mmol | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | 3-chlorobenzylamine | 4 mmol | ClC=1C=C(CN)C=CC1 | C7H8ClN
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
solvent | butanol | 15 ml | C(CCC)O | C4H10O
product | 6-(3-chlorobenzylamino)purine | Yield 95% | ClC=1C=C(CNC2=C3NC=NC3=NC=N2)C=CC1 | C12H10ClN5
